US08084485B2
To a solution of (2S,4S)-ethyl 2-amino-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate (450 mg, 1.2 mmol) in CH2Cl2 (10 mL) at 0° C. were added Et3N (182 mg, 0.18 mmol) and a solution of (Boc)2O (0.37 g, 1.7 mmol) in CH2Cl2 (2 ml). The mixture was stirred for 20 h at rt. Evaporation and flash chromatography on silica gel afforded (2S,4S)-ethyl 2-(tert-butoxycarbonylamino)-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate (550 mg, 97%). 1H NMR: 0.86 (m, 6H), 1.24 (m, 4H), 1.45 (s, 9H), 1.61 (m, 4H), 1.76 (m, 2H), 2.17 (m, 2H), 2.65 (m, 2H), 2.87 (m, 1H), 3.30 (s, 3H), 4.13 (m, 2H), 4.39 (m, 1H), 4.44 (m, 2H), 4.91 m,1H), 6.98 (d, 1H), 7.22 (s, 1H), 7.59 (d, 1H), 7.93 (s, 1H); MS: 476 (M++1)

reactant | (2S,4S)-ethyl 2-amino-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate | 1.2 mmol, 450 mg | N[C@H](C(=O)OCC)C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC | C21H33N3O3
reactant | Et3N | 0.18 mmol, 182 mg | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 1.7 mmol, 0.37 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (2S,4S)-ethyl 2-(tert-butoxycarbonylamino)-4-((1-(3-methoxypropyl)-1H-indazol-6-yl)methyl)-5-methylhexanoate | 550 mg, 97% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC)C[C@@H](C(C)C)CC1=CC=C2C=NN(C2=C1)CCCOC | C26H41N3O5
